US05686486
Addition of ethylmagnesium bromide to 3-hydroxy benzaldehyde gives the compound of formula G-2, which can be alkylated with allyl bromide to give the compound of formula G-3. Reaction between 4-hydroxycoumarin and the compound of formula G-3 using boron trifluoride etherate as an acidic catalyst gives the compound of formula G-4 (for example, 3-(1'-(3-Allyloxyphenyl)propyl)-4-hydroxycoumarin.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 3-hydroxy benzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | 4-hydroxycoumarin | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
product | 3-(1'-(3-Allyloxyphenyl)propyl)-4-hydroxycoumarin | C(C=C)OC=1C=C(C=CC1)C(CC)C=1C(OC2=CC=CC=C2C1O)=O | C21H20O4
